14
R0100 1 0 100
L0102 1 2 5
C0200 2 0 1E-6
G0304 3 4 5 0 -1E-4 -7E-4 0 5.6E-3 0 -1.12E-2 0 6.4E-3
G0306 3 6 7 0 -1E-4 0 0 0 0 0 0 1E-4
G0802 8 2 9 0 -1E-4 -7E-4 0 5.6E-3 0 -1.12E-2 0 6.4E-3
E1000 10 0 3 4 1E-1
E1100 11 0 3 6 1E-1
E1200 12 0 8 2 1E-1
H1300 13 0 4 0 1
H1400 14 0 6 0 1
V0300 3 0 PULSE -30 10 0 2 1 0 20 1
V0800 8 0 SIN 0 5 5 0 0 0 100
V0510 5 10 DC 1
V0711 7 11 DC 1
V0912 9 12 DC 1
.TRAN 2 2E-4 BE 1
