24
R0100 1 0 100
L0102 1 2 5
C0200 2 0 1E-6
G0304 3 4 5 0 -1E-6 -7E-6 0 5.6E-5 0 -1.12E-4 0 6.4E-5
G0306 3 6 7 0 -1E-6 0 0 0 0 0 0 1E-6
G0308 3 8 9 0 -1E-6 5E-6 0 -2E-5 0 1.6E-5
G0310 3 10 11 0 -1E-6 0 0 0 0 0 0 1E-6
G1202 12 2 13 0 -1E-6 -7E-6 0 5.6E-5 0 -1.12E-4 0 6.4E-5
E1400 14 0 3 4 1E-1
E1500 15 0 3 6 1E-1
E1600 16 0 3 8 1E-1
E0900 9 0 17 0 0 -7 0 56 0 -112 0 64
E1800 18 0 3 10 1E-1
E1100 11 0 19 0 0 0 0 0 0 0 0 1
E2000 20 0 12 2 1E-1
H2100 21 0 4 0 1
H2200 22 0 6 0 1
H2300 23 0 8 0 1
H2400 24 0 10 0 1
V0300 3 0 PULSE -25 5 0 2 1 0 20 1
V1200 12 0 SIN 0 5 5 0 0 0 100
V0514 5 14 DC 1
V0715 7 15 DC 1
V1716 17 16 DC 1
V1918 19 18 DC 1
V1320 13 20 DC 1
.TRAN 2 2E-4 BE 1
