9
R1 1 0 1
R2 2 1 2
R3 3 0 1 0 -1
R4 4 0 3
R5 5 0 1
R6 6 5 1
R7 4 3 2
L1 7 0 1
L2 8 0 100
C1 7 0 1
C2 8 0 0.01
C3 6 0 1
C4 9 5 1
E11 4 0 3 4 0 0 0 1
O1 2 0 6 1
I1 3 4 DC 2
I2 0 7 PULSE 0 5E+1 0 0 0 0 1000 1
V1 2 9 PULSE 0 1 0 0 0 1000 2000 1
K1 L1 L2 0.6
.TRAN 20 20E-3 BE 1
