13
R0100 1 0 -1
R0200 2 0 -1
R0304 3 4 0 5 0 -20 0 16
R0305 3 5 -1 0 18 0 -48 0 32
R0306 3 6 0 -7 0 56 0 -112 0 64
R0307 3 7 1
R0308 3 8 1
G0100 1 0 3 0 1 -7 0 56 0 -112 0 64
E0900 9 0 3 0 2 -7 0 56 0 -112 0 64
F0200 2 0 7 0 3 -7 0 56 0 -112 0 64
H1000 10 0 4 0 1
H1100 11 0 5 0 1
H1200 12 0 6 0 1
H1300 13 0 8 0 4 -7 0 56 0 -112 0 64
V0300 3 0 PULSE -1 1 0 1 1 0 2 2
.TRAN 4 4E-3 BE 1
